US04847256
7-(3-Chlorophenyl)-4,5,6,7,-tetrahydro-5-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile
To an unweighed amount of 7-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile (prepared as described in Ex. 14) in a stirred mixture of one liter of tetrahydrofuran and one liter of methyl alcohol, under nitrogen was added 20.0 g of sodium borohydride, portionwise. The mixture was stirred for 8 hours at room temperature, then allowed to stand for 3 days providing two layers. The top layer was separated, dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated in vacuo to give a yellow oil. The oil was dissolved in 250 ml of chloroform and filtered through hydrous magnesium silicate and evaporated to a yellow oil. The oil was triturated with ether, forming crystals on scratching. The crystals were collected to give the desired product as white crystals, mp 192°-195° C.

reactant | 7-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | ClC=1C=C(C=CC1)C1=CC(=NC=2N1N=CC2C#N)C | C14H9ClN4
reactant | tetrahydrofuran | one liter | O1CCCC1 | C4H8O
reactant | methyl alcohol | one liter | CO | CH4O
reactant | sodium borohydride | 20.0 g | [BH4-].[Na+]
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-(3-Chlorophenyl)-4,5,6,7,-tetrahydro-5-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | ClC=1C=C(C=CC1)C1CC(NC=2N1N=CC2C#N)C | C14H13ClN4
